US07981903B2
A solution of 1-[3-(methyloxy)-4-nitrophenyl]piperazine (2.09 g, 8.44 mmol), 2-methyl-iodopropane (2.1 g, 11.39 mmol), and potassium carbonate (4.7 g, 34 mmol) in acetonitrile (80 mL) was heated in a pressure vessel at 80° C. for 24 hours. The reaction was cooled and the acetonitrile was removed under reduced pressure. The solids were dissolved in methylene chloride/water. The organic layer was dried over sodium sulfate, filtered, and the solvent removed under reduced pressure. The resultant residue was purified by chromatography on SiO2 (10% MeOH/CH2CL2 with 0.2% NH3) to give 1-[3-(methyloxy)-4-nitrophenyl]-4-(2-methylpropyl)piperazine as a pale yellow solid (1.70 g, 5.8 mmol, 69% yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.91 (d, J=6.59 Hz, 6 H), 1.80 (ddd, J=13.69, 7.05, 6.91 Hz, 1 H), 2.13 (d, J=6.04 Hz, 2 H), 2.52 (s, 4 H), 3.38 (s, 4 H), 3.93 (s, 3 H), 6.29 (d, J=2.38 Hz, 1 H), 6.40 (dd, J=9.43, 2.47 Hz, 1 H), 7.98 (d, J=9.52 Hz, 1 H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]piperazine | 8.44 mmol, 2.09 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
reactant | 2-methyl-iodopropane | 11.39 mmol, 2.1 g | CC(CI)C | C4H9I
reactant | potassium carbonate | 34 mmol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 1-[3-(methyloxy)-4-nitrophenyl]-4-(2-methylpropyl)piperazine | 5.8 mmol, 1.70 g, 69% yield | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CC(C)C | C15H23N3O3
